US05132316
1-Azabicyclo[3.2.1]oct-5-ylcarboxamide (D20)
Ethyl 1-azabicyclo[3.2.1]oct-5-ylcarboxylate (E7, Example 7 hereinafter, 9.6 g, 0.053 mole) was treated with 8M hydrochloric acid (130 ml) and heated under reflux for 18h. The solution was concentrated in vacuo to give a white solid, which was treated with thionyl chloride (80 ml) and heated under reflux for 6h. The reaction mixture was concentrated in vacuo to leave a red semi-solid, which was suspended in dichloromethane (120 ml), cooled in an ice bath and treated with an excess of ammonia/dichloromethane solution. The mixture was stirred at room temperature for 1h, then treated with saturated potassium carbonate solution. The organic layer was separated and the aqueous was extracted with chloroform (3×70 ml). All the organics were combined, then dried (Na2SO4) and concentrated in vacuo to give the title compound (D20) as a brown solid (6.2 g, 76%), which was used without further purification.

reactant | Ethyl 1-azabicyclo[3.2.1]oct-5-ylcarboxylate | N12CCCC(CC1)(C2)C(=O)OCC | C10H17NO2
reactant | hydrochloric acid | 8M, 130 ml | Cl | ClH
reactant | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia dichloromethane | N.ClCCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 1-Azabicyclo[3.2.1]oct-5-ylcarboxamide | 6.2 g, 76% | N12CCCC(CC1)(C2)C(=O)N | C8H14N2O
